US06498169B1
Synthesis of 4-[N-(Indan-5-yl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (142 mg) and 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a trihydrochloride.

reactant | 4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 142 mg | C1CCC2=CC(=CC=C12)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C29H35N3O3
reactant | 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(Indan-5-yl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.C1CCC2=CC(=CC=C12)N(CC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C44H50N4O6.3ClH/c1-49-38-23-33(24-39(50-2)43(38)53-5)37-21-29(14-18-45-37)27-47-19-15-35(16-20-47)48(36-13-12-30-9-7-10-31(30)22-36)28-32-11-8-17-46-42(32)34-25-40(51-3)44(54-6)41(26-34)52-4;;;/h8,11-14,17-18,21-26,35H,7,9-10,15-16,19-20,27-28H2,1-6H3;3*1H
